US07326732B2
(ii) {3-[(4-Chloro-biphenyl-3-carbonyl)-amino]-phenyl}-acetic acid ethyl ester
[3-(5-Bromo-2-chloro-benzoylamino)-phenyl]-acetic acid ethyl ester (198 mg, 0.50 mmol) was coupled to phenylboronic acid using Method E, except that the reaction mixture was heated at 80° C. for 25 min. The crude product was purified by column chromatography using 20% EtOAc in heptane to give the title compound.

reactant | [3-(5-Bromo-2-chloro-benzoylamino)-phenyl]-acetic acid ethyl ester | 0.50 mmol, 198 mg | C(C)OC(CC1=CC(=CC=C1)NC(C1=C(C=CC(=C1)Br)Cl)=O)=O | C17H15BrClNO3
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | {3-[(4-Chloro-biphenyl-3-carbonyl)-amino]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)NC(=O)C=1C=C(C=CC1Cl)C1=CC=CC=C1)=O | C23H20ClNO3
